US09328116B2
A mixture of 4-chloro-1-[1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-2-oxo-pyrrolidin-3-yl]-5-methylpyrazole-3-carbonitrile (0.042 g, 0.10 mmol) in ethane-1,2-diamine (1.5 mL), HOAc (0.23 mL) and EtOH (1.25 mL) was stirred at 100° C. for 2.5 hrs. The mixture was then cooled to room temperature, quenched with sat. aq. NaHCO3 (50 mL), and extracted with EtOAc (100 mL). The organic layer was separated, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 3-[4-chloro-3-(4,5-dihydro-1H-imidazol-2-yl)-5-methylpyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one (0.041 g, 87%).

reactant | 4-chloro-1-[1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-2-oxo-pyrrolidin-3-yl]-5-methylpyrazole-3-carbonitrile | 0.10 mmol, 0.042 g | ClC=1C(=NN(C1C)C1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)=O)C#N | C21H20ClFN6O
reactant | ethane-1,2-diamine | 1.5 mL | C(CN)N | C2H8N2
solvent | HOAc | 0.23 mL | CC(=O)O | C2H4O2
solvent | EtOH | 1.25 mL | CCO | C2H6O
product | 3-[4-chloro-3-(4,5-dihydro-1H-imidazol-2-yl)-5-methylpyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.041 g, 87% | ClC=1C(=NN(C1C)C1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)=O)C=1NCCN1 | C23H25ClFN7O
